US05596097
2-[2-(N-tert-butoxycarbonylamino)ethyl]-5-[[2-(N-tert-butoxycarbonylamino)ethyl]amino]isoquino[8,7,6-cd]indazole-6(2H)-one
A suspension of 2-[2-(N-tert-butoxycarbonylamino)ethyl]-5-(p-toluenesulfonyl oxy)isoquino[8,7,6cd]indazole-6(2H)-one Example 3 (0.535 g) and N-(tert-butoxycarbonyl)ethylenediamine (1.12 g) in dry pyridine (5.35 mL) is heated at 80° C. The dark solution obtained is held at this temperature for 5 hours, then it is concentrated to dryness and partitioned between brine (30 mL) and ethyl acetate (2×25 mL). The orange-red solid insoluble in the biphasic mixture is separated by suction filtration and dried at 40° C. under vacuum (0.43 g).

reactant | 2-[2-(N-tert-butoxycarbonylamino)ethyl]-5-(p-toluenesulfonyl oxy)isoquino[8,7,6cd]indazole-6(2H)-one | C(C)(C)(C)OC(=O)NCCN1N=C2C=3C(=C(C=CC13)OS(=O)(=O)C1=CC=C(C=C1)C)C(C=1C=CN=CC12)=O | C27H26N4O6S
reactant | N-(tert-butoxycarbonyl)ethylenediamine | 1.12 g | C(C)(C)(C)OC(=O)NCCN | C7H16N2O2
solvent | pyridine | 5.35 mL | N1=CC=CC=C1 | C5H5N
product | 2-[2-(N-tert-butoxycarbonylamino)ethyl]-5-[[2-(N-tert-butoxycarbonylamino)ethyl]amino]isoquino[8,7,6-cd]indazole-6(2H)-one | C(C)(C)(C)OC(=O)NCCN1N=C2C=3C(=C(C=CC13)NCCNC(=O)OC(C)(C)C)C(C=1C=CN=CC12)=O | C27H34N6O5
